US04288443
(a) 5-(Dimethylaminomethyl)-4-methyl-2-furanmethanol
A solution of N,N,3-trimethyl-2-furanmethanamine (10.3 g) in dry tetrahydrofuran (200 ml) under nitrogen was treated over 2 hr with 1.6 M n-butyl lithium in hexane 846.2 ml) at -40° to -45° C. After stirring for 2 hr at room temperature paraformaldehyde (2.3 g) in dry tetrahydrofuran (100 ml) was added and the solution stirred overnight. Water (10 ml) was added and the solvent evaporated. Ethyl acetate (200 ml) and sodium sulphate were added and the organic phase was evaporated giving an oily residue which was distilled (85°/0.1 mm) affording the title compound (8 g).

reactant | N,N,3-trimethyl-2-furanmethanamine | 10.3 g | CN(CC=1OC=CC1C)C | C8H13NO
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | paraformaldehyde | 2.3 g | C=O | CH2O
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | 846.2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(Dimethylaminomethyl)-4-methyl-2-furanmethanol | 8 g | CN(C)CC1=C(C=C(O1)CO)C | C9H15NO2
